US06242443B1
5,7-Dichloro-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide
Starting from 2-amino-3,5-dichlorobenzenesulfonamide (0.5 g; 2.07 mmol) and isopropyl isothiocyanate (251 mg; 2.48 mmol) with the use of the procedure described in example 4, 100 mg (17.4%) of the title compound was isolated; m.p. >230° C.

reactant | 2-amino-3,5-dichlorobenzenesulfonamide | 2.07 mmol, 0.5 g | NC1=C(C=C(C=C1Cl)Cl)S(=O)(=O)N | C6H6Cl2N2O2S
reactant | isopropyl isothiocyanate | 2.48 mmol, 251 mg | C(C)(C)N=C=S | C4H7NS
product | 5,7-Dichloro-3-isopropylamino-4H-1,2,4-benzothiadiazine 1,1-dioxide | 100 mg, 17.4% | ClC1=CC(=CC2=C1NC(=NS2(=O)=O)NC(C)C)Cl | C10H11Cl2N3O2S
